US07585886B2
Benzyl 6-{(3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate was dissolved in THF, mixed with a THF solution of TBAF at room temperature and stirred for 5Hours. Thereafter, work-up and purification were carried out in the standard method to obtain benzyl 6-{(3R,4S)-3-(hydroxymethyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate.

reactant | Benzyl 6-{(3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)OCC1=CC=CC=C1)=O | C31H42F3NO4Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | benzyl 6-{(3R,4S)-3-(hydroxymethyl)-4-[3-(trifluoromethyl)phenyl]pyrrolidin-1-yl}-6-oxohexanoate | OC[C@H]1CN(C[C@@H]1C1=CC(=CC=C1)C(F)(F)F)C(CCCCC(=O)OCC1=CC=CC=C1)=O | C25H28F3NO4
